### PR TITLE
feat(GreensOpenProblems): 32

### LINKED ISSUE #1588: Green's Open Problems #32
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.32

Let $p$ be a prime and let $A \subset \mathbb{Z}/p\mathbb{Z}$ be a set of size $\sqrt{p}$. Is there a dilate $A$ containing a gap of length $100\sqrt{p}$?

### Prerequisites needed
Definition of a dilate

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jeangud**
# Description
Let $p$ be a prime and let $A \subset \mathbb{Z}/p\mathbb{Z}$ be a set of size $\lfloor \sqrt{p} \rfloor$. Is there a dilate of $A$ containing a gap of length $100\sqrt{p}$?

- Closes #1588 
- Added the different variants mentioned by Green in the comments.
- Tried making the code re-usable with `HasGap`, `HasLargeGapDilate`, and `HasCosetHole` which help express all the variants easily.
- Implemented with the help of Gemini 3.1 Pro :robot: : generating a rough first draft, and then adjusting manually for style, simplicity/modularity, and fixing various edge cases.

# Testing
- Builds successfully
```shell
$ lake build FormalConjectures/GreensOpenProblems/32.lean 
Build completed successfully (7975 jobs).
```

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/32.lean [hunk 1]
```diff
@@ -0,0 +1,127 @@
...
+
+namespace Green32
+
+/--
+A set $A$ has a gap of length $L$ if there exists $x$ such that $x, x+1, \dots, x+L-1$ are all not
+in $A$.
+-/
+def HasGap {p : ℕ} (A : Finset (ZMod p)) (L : ℕ) : Prop :=
+  ∃ x : ZMod p, ∀ (i : ℕ), i < L → x + (i : ZMod p) ∉ A
+
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/32.lean:39]:
```suggestion

/-- Any set has a gap of length 0 (vacuously true). -/
@[category test, AMS 5 11]
theorem hasGap_zero {p : ℕ} (A : Finset (ZMod p)) :
    HasGap A 0 := by
  exact ⟨0, fun _ h => absurd h (by omega)⟩

/-- The empty set has a gap of any length. -/
@[category test, AMS 5 11]
theorem hasGap_empty {p : ℕ} (L : ℕ) :
    HasGap (∅ : Finset (ZMod p)) L := by
  exact ⟨0, fun _ _ => by simp⟩

/-- The full set in $\mathbb{Z}/p\mathbb{Z}$ has no gap of positive length. -/
@[category test, AMS 5 11]
theorem not_hasGap_univ {p : ℕ} [NeZero p] :
    ¬ HasGap (Finset.univ : Finset (ZMod p)) 1 := by
  rintro ⟨x, hx⟩
  have := hx 0 (by omega)
  simp at this

/-- Concrete: $\{0\}$ in $\mathbb{Z}/5\mathbb{Z}$ has a gap of length 4 starting at 1. -/
@[category test, AMS 5 11]
theorem hasGap_concrete :
    HasGap ({(0 : ZMod 5)} : Finset (ZMod 5)) 4 := by
  refine ⟨1, fun i hi => ?_⟩
  interval_cases i <;> decide

```

Would it make sense to add some sanity test statements like this?!

File: FormalConjectures/GreensOpenProblems/32.lean [hunk 2]
```diff
@@ -0,0 +1,127 @@
...
+  sorry
+
+/--
+A set $A$ has a coset hole of size $L$ if there exists a subspace $W$ and a vector $v$ such that
+the affine space $v + W$ has size at least $L$ and is disjoint from $A$.
+-/
+def HasCosetHole {n : ℕ} (A : Finset (Fin n → ZMod 2)) (L : ℕ) : Prop :=
+  ∃ W : Submodule (ZMod 2) (Fin n → ZMod 2), ∃ v : Fin n → ZMod 2,
+    L ≤ Nat.card W ∧ ∀ w : W, v + (w : Fin n → ZMod 2) ∉ A
+
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/32.lean:141]:
```suggestion

/-- The empty set in $\mathbb{F}_2^n$ has a coset hole (using the trivial subspace). -/
@[category test, AMS 5 11]
theorem hasCosetHole_empty (n : ℕ) :
    HasCosetHole (∅ : Finset (Fin n → ZMod 2)) 0 := by
  exact ⟨⊥, 0, Nat.zero_le _, fun _ => by simp⟩

```
And perhaps one like this?

File: FormalConjectures/GreensOpenProblems/32.lean (hunk 1 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/32.lean:39]: Absolutely! Thank you for creating these 🙏 

I need to remember to add some tests for my intermediate constructs like these..

Let me know if we'd like to move some of these to `FormalConjecturesTest`

File: FormalConjectures/GreensOpenProblems/32.lean (hunk 2 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/32.lean:141]: Done ✅ 
Thank you for the review @mo271

**Comment by mo271** [comment]
Thanks again!
